US08471026B2
Step 1: methyl 6-(butylsulfonyl)-5,6,7,8-tetrahydro-1,6-naphthyridine-2-carboxylate
To a microwave vial containing n-butanesulfonyl chloride (0.0352 g, 0.225 mmol), was added methyl 5,6,7,8-tetrahydro-1,6-naphthyridine-2-carboxylate hydrochloride (0.0288 g, 0.15 mmol), TEA (0.167 mL, 1.2 mmol), DMAP (1.83 mg, 0.015 mmol), and DMF (2 mL). The mixture was shaken at rt for 13 h. The solvent was then completely evaporated to yield a solid. LC-MS: (FA) ES+ 313.

reactant | n-butanesulfonyl chloride | 0.225 mmol, 0.0352 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | methyl 5,6,7,8-tetrahydro-1,6-naphthyridine-2-carboxylate hydrochloride | 0.15 mmol, 0.0288 g | Cl.N1=C(C=CC=2CNCCC12)C(=O)OC
catalyst | DMAP | 0.015 mmol, 1.83 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | methyl 6-(butylsulfonyl)-5,6,7,8-tetrahydro-1,6-naphthyridine-2-carboxylate | C(CCC)S(=O)(=O)N1CC=2C=CC(=NC2CC1)C(=O)OC | C14H20N2O4S
